US06117860
17-Methylenestra-1,3,5(10),7-tetraen-3-yl acetate.
Methyltriphenylphosphonium bromide (3.33 g, 9.32 mmol) and potassium t-butoxide (1.05 g, 9.36 mmol) suspended in 10 ml of anh. DMSO under argon was stirred 1 h in an oil bath (77-79° C.), following which equilin (500.0 mg, 1.863 mmol) in 10 ml of anh. DMSO was added via syringe. See FIG. 161. After stirring a further hour the cooled reaction mixture was poured into 50 ml of ice-1 N hydrochloric acid and extracted three times with 25 ml portions of ether. The combined organic extracts were washed with 25 ml of brine, dried over magnesium sulfate, and filtered through diatomaceous earth. The residue was washed with 10 ml of ether and combined filtrates concentrated under reduced pressure. The resulting light yellow syrup was taken up in anh. pyridine (6.3 ml, 78 mmol), acetic anhydride was added (0.88 ml, 9.3 mmol), and the reaction mixture was stirred 16 h. The mixture was then poured into 100 ml of 1 N hydrochloric acid and extracted three times with 50 ml portions of ether. The combined organic extracts were washed with 100 ml of saturated sodium bicarbonate+100 ml of brine, dried over magnesium sulfate, and filtered through diatomaceous earth. The residue was washed with 25 ml of ether and the combined filtrates were concentrated under reduced pressure. The crude acetate was flash chromatographed (5% ethyl acetate/hexanes on silica gel) to give a yellow resin (494.7 mg, 1,604 mmol, 86%).

reactant | potassium t-butoxide | 9.36 mmol, 1.05 g | CC(C)([O-])C.[K+]
reactant | equilin | 1.863 mmol, 500.0 mg | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC=C3[C@@H]1CCC2=O)O | C18H20O2
reactant | hydrochloric acid | Cl | ClH
reactant | pyridine | 78 mmol, 6.3 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
catalyst | Methyltriphenylphosphonium bromide | 9.32 mmol, 3.33 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
catalyst | ice-1 | 50 ml | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | 17-Methylenestra-1,3,5(10),7-tetraen-3-yl acetate | 1,604 mmol, 494.7 mg, 86% | C(C)(=O)OC1=CC=2CC=C3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=C | C21H24O2
